US07642339B2
To a solution of 2-(2-Isopropylamino-thiazol-4-yl)-quinoline-4,7-diol (1.27 g, 4.2 mmol) in 4 mL of DMF was added TIPSCl (2.67 mL, 12.6 mmol) followed by imidazole (2.86 g, 42 mmol). The solution was stirred for 5 min at rt, dissolved in 20 mL EtOAC, quenched by saturated solution of NH4Cl in H2O. The solution was extracted and evaporated under vacuo. The crude product was purified by silica gel chromatography using SiO2 (eluted with 5% to 20% MeOH/DCM) to give 2-(2-Isopropylamino-thiazol-4-yl)-7-triisopropylsilanyloxy-quinolin-4-ol as a dark orange solid (1.9 g, 99%). 1H-NMR (300 MHz, DMSO): δ 11.0 (bs, 1H), 7.93 (d, 1H), 7.70 (bs, 1H), 7.42 (s, 1H), 7.25 (s, 1H), 6.81 (dd, 1H), 6.49 (s, 1H), 3.97-3.87 (m, 1H), 1.38-1.25 (m, 1H), 1.22 (d, 6H), 1.07 (d, 6H).

reactant | 2-(2-Isopropylamino-thiazol-4-yl)-quinoline-4,7-diol | 4.2 mmol, 1.27 g | C(C)(C)NC=1SC=C(N1)C1=NC2=CC(=CC=C2C(=C1)O)O | C15H15N3O2S
reactant | TIPSCl | 12.6 mmol, 2.67 mL | CC(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 42 mmol, 2.86 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-Isopropylamino-thiazol-4-yl)-7-triisopropylsilanyloxy-quinolin-4-ol | 1.9 g, 99% | C(C)(C)NC=1SC=C(N1)C1=NC2=CC(=CC=C2C(=C1)O)O[Si](C(C)C)(C(C)C)C(C)C | C24H35N3O2SSi
